US08729078B2
1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide
A stirred solution of 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (610 mg, 783 μmol, Eq: 1.00), acetaldoxime (139 mg, 143 μl, 2.35 mmol, Eq: 3) and indium (III) chloride (8.66 mg, 39.1 μmol, Eq: 0.05) in toluene (25.2 ml) was heated to 110° C. and stirred for 3 h. The reaction mixture was poured into 15 mL EtOAc and extracted with sat NH4Cl (1×25 mL). The organic layers were dried over MgSO4 and concentrated in vacuo. After removal of solvent and residue was separated by flash chromatography (silica gel, 12 g, 80% to 100% EtOAc in hexanes) gave 66 mgs of desired product with impurity. This material was re-purified by preparative reverphase HPLC in TFA. The desired product was neutralized with NaHCO3 (1×25 mL). The organic layers were dried over MgSO4 and concentrated in vacuo., extracted with ethyl acetate/methanol (9:1) to give 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide (43 mgs, 12%) as white solid. 1H NMR (DMSO-d6) δ: 8.64 (dd, J=7.9, 1.6 Hz, 1H), 8.60 (d, J=2.5 Hz, 1H), 8.45 (s, 1H), 8.36 (dd, J=4.8, 1.8 Hz, 1H), 7.94 (d, J=1.8 Hz, 1H), 7.82 (dd, J=13.2, 1.6 Hz, 1H), 7.66-7.78 (m, 3H), 7.63 (dd, J=7.3, 2.3 Hz, 1H), 7.36 (dd, J=8.0, 4.8 Hz, 1H), 7.18 (br. s., 1H), 4.72 (t, J=5.4 Hz, 1H), 4.11-4.34 (m, 2H), 1.44 (s, 9H). MS m/e 486.6 (M+H+).

reactant | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 783 μmol, 610 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC=CC2)C#N)CO | C27H22FN5O2
reactant | acetaldoxime | 2.35 mmol, 143 μl, 139 mg | C(C)=NO | C2H5NO
reactant | indium (III) chloride | 39.1 μmol, 8.66 mg | [Cl-].[In+3].[Cl-].[Cl-]
reactant | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 25.2 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide | 66 mgs | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC=CC2)C(=O)N)CO | C27H24FN5O3
